US07044987B2
A) Synthesis of N-(6-methoxy-3-nitro-2-pyridyl)-N′,N′-dimethylpropane-1,3-diamine
4 g (0.0212 mol) of the product 2-chloro-3-nitro-6-methoxypyridine, 40 ml of ethanol and 5.33 ml (0.0424 mol) of 3-dimethylaminopropylamine are placed in a fully equipped round-bottomed flask. The mixture is refluxed for 2 hours with stirring and is then poured onto an ice/water mixture with stirring. The precipitate formed is filtered off by suction and dried under vacuum to constant weight. 4.2 g of yellow powder are obtained, ie a yield of 78.1%.

reactant | 2-chloro-3-nitro-6-methoxypyridine | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | 3-dimethylaminopropylamine | 0.0424 mol, 5.33 ml | CN(CCCN)C | C5H14N2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | N-(6-methoxy-3-nitro-2-pyridyl)-N′,N′-dimethylpropane-1,3-diamine | 4.2 g, yield of 78.1% | COC1=CC=C(C(=N1)NCCCN(C)C)[N+](=O)[O-] | C11H18N4O3
